US05808065
In 200 ml of acetic acid was suspended 15.00 g of 6-[4-(4-aminobutyl)phenyl]-4,5-dihydropyridazin-3(2H)-one. To the suspension were added 100 ml of a 25% hydrogen bromide-acetic acid solution and then 5.35 g of dimethylsulfoxide, and the mixture was stirred at room temperature for 4.5 hours. 400 ml of isopropyl ether was added to the reaction mixture, and precipitated crystal was collected by filtration and recrystallized from methanol to obtain 18.94 g of 6-[4-(4-aminobutyl)phenyl]pyridazin-3(2H)-one hydrobromide.

reactant | 6-[4-(4-aminobutyl)phenyl]-4,5-dihydropyridazin-3(2H)-one | 15.00 g | NCCCCC1=CC=C(C=C1)C=1CCC(NN1)=O | C14H19N3O
reactant | hydrogen bromide acetic acid | Br.C(C)(=O)O
reactant | dimethylsulfoxide | 5.35 g | CS(=O)C | C2H6OS
reactant | isopropyl ether | 400 ml | C(C)(C)OC(C)C | C6H14O
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
product | 6-[4-(4-aminobutyl)phenyl]pyridazin-3(2H)-one hydrobromide | 18.94 g | Br.NCCCCC1=CC=C(C=C1)C=1C=CC(NN1)=O | InChI=1S/C14H17N3O.BrH/c15-10-2-1-3-11-4-6-12(7-5-11)13-8-9-14(18)17-16-13;/h4-9H,1-3,10,15H2,(H,17,18);1H
